US06559343B1
Starting from dimethyl acetonedicarboxylate, dimethyl tetra-C-methylacetonedicarboxylate was obtained by methylation, and this was converted into the dicarboxylic acid methyl ester chloride and then methylated with dimethylcadmium. The methyl 2,2,4,4-tetramethyl-3,5-dioxohexanecarboxylate obtained was cyclized in the presence of sodium methanolate. The total yield (based on dimethyl acetonedicarboxylate) is 0.01% (Chem. Ber. 92, 2033 (1959)).

reactant | dimethyl acetonedicarboxylate | COC(=O)CC(=O)CC(=O)OC | C7H10O5
catalyst | dimethylcadmium | C[Cd]C
product | methyl 2,2,4,4-tetramethyl-3,5-dioxohexanecarboxylate | CC(CC(=O)OC)(C(C(C(C)=O)(C)C)=O)C | C12H20O4
